US05753664
3-Methyl-2-[4-[4-(2-morpholinoethoxy)benzoyl]benzyloxy]-4H-pyrido[1,2-a]pyrimidin-4-one hydrochloride
A solution of 2-[4-(4-hydroxybenzoyl)benzyloxy]-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (104 mg), 4-(2-chloroethyl)morpholine hydrochloride (90 mg) and potassium carbonate (179 mg) in DMF (7 ml) was stirred at 100° C. for 20 hours. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, dried, and concentrated. Then, hydrogen chloride-ethyl acetate was added and the precipitated hydrochloride was collected by filtration and dried to provide the title compound as colorless solid (24 mg).

reactant | 2-[4-(4-hydroxybenzoyl)benzyloxy]-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 104 mg | OC1=CC=C(C(=O)C2=CC=C(COC=3N=C4N(C(C3C)=O)C=CC=C4)C=C2)C=C1 | C23H18N2O4
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 90 mg | Cl.ClCCN1CCOCC1
reactant | potassium carbonate | 179 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 3-Methyl-2-[4-[4-(2-morpholinoethoxy)benzoyl]benzyloxy]-4H-pyrido[1,2-a]pyrimidin-4-one hydrochloride | 24 mg | Cl.CC1=C(N=C2N(C1=O)C=CC=C2)OCC2=CC=C(C=C2)C(C2=CC=C(C=C2)OCCN2CCOCC2)=O | InChI=1S/C29H29N3O5.ClH/c1-21-28(30-26-4-2-3-13-32(26)29(21)34)37-20-22-5-7-23(8-6-22)27(33)24-9-11-25(12-10-24)36-19-16-31-14-17-35-18-15-31;/h2-13H,14-20H2,1H3;1H
